US06544985B2
(2-Amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-nitro-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example C10) (7.35 g, 19.75 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a light orange solid (6.75 g).

reactant | (2-nitro-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 19.75 mmol, 7.35 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)[N+](=O)[O-])=O | C16H20F3N3O4
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)N)=O | C16H22F3N3O2
